US06537948B1
A mixture of 0.356 g of 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyridine, 10% palladium/carbon and ethyl acetate was stirred for 8 hours at room temperature under hydrogen atmosphere. The reaction system was purged with nitrogen, then, the reaction solution was filtrated through Celite, and the filtrate was concentrated to obtain 0.32 g of 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-hydroxypyridine.

reactant | 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyridine | 0.356 g | C(C1=CC=CC=C1)OC1=C(C=NC=C1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C24H16ClF4N3O4
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-hydroxypyridine | 0.32 g | ClC1=C(OC=2C=NC=CC2O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H10ClF4N3O4
